### PR TITLE
corres_whileLoop and awaken_corres (using reader monad)

### PR DESCRIPTION
**Pull request by michaelmcinerney**
This adds `corres_whileLoop`, a `corres` rule for functions defined using `whileLoop`, and uses it to prove `awaken_corres`. 

I decided to close the earlier PR containing these results and open this new PR, given that much has changed, in particular, the reader monad is now used.

### CODE REVIEW

File: proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy [hunk 1]
```diff
@@ -1635,14 +1635,10 @@ crunch valid_pdpt[wp]: sc_and_timer "valid_pdpt_objs::det_state \<Rightarrow> _"
 crunch valid_pdpt[wp]: schedule_choose_new_thread "valid_pdpt_objs"
   (simp: Let_def wp: hoare_drop_imp)
 
-crunch valid_pdpt[wp]: activate_thread,switch_to_thread,
-       switch_to_idle_thread "valid_pdpt_objs"
+crunch valid_pdpt[wp]: activate_thread,switch_to_thread, switch_to_idle_thread, awaken "valid_pdpt_objs"
```
Comment (VictorPhan) [inline proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy:1638]: nitpick: space after `activate_thread, `

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 2]
```diff
@@ -8855,52 +8778,170 @@ lemma active_sc_tcb_at_budget_sufficient:
...
-for cur_tcb[wp]: cur_tcb
-and budget_ready: "\<lambda>s. P (budget_ready t s)"
-and budget_sufficient: "\<lambda>s. P (budget_sufficient t s)"
-and budget_ready_ct: "\<lambda>s. P (budget_ready (cur_thread s) s)"
-and budget_sufficient_ct: "\<lambda>s. P (budget_sufficient (cur_thread s) s)"
-and active_sc_tcb_at'[wp]: "\<lambda>s. P (active_sc_tcb_at t s)"
-and active_sc_tcb_at_ct[wp]: "\<lambda>s. P (active_sc_tcb_at(cur_thread s) s)"
-  (wp: hoare_drop_imps mapM_x_wp')
+  for cur_tcb[wp]: cur_tcb
+  and budget_ready: "\<lambda>s. P (budget_ready t s)"
```
Comment (VictorPhan) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:8938]: Is it intentional that the `budget_` invariants are not `[wp]`?

**Review by VictorPhan — APPROVED** [review]
cool

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 2 above)
Comment (michaelmcinerney) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:8938]: These weren't `[wp]` before. I'll check to see whether they are wp rules, and if so, I'll add them

**Comment by mktnk3** [comment]
Thanks, Michael, for putting this PR together for merging. Very glad to see this in the final state. I will have a look through myself, but I might not have a very fresh set of eyes having worked on this PR myself for a while. So, I’d like to ask other people for a good review - thanks!

**Comment by MitchellBuckley** [comment]
nitpick: There's a typo in one of your commit messages "RICSV"

File: lib/ExtraCorres.thy [hunk 3]
```diff
@@ -251,4 +278,88 @@ lemma wp_from_corres_unit:
...
+  apply (prop_tac "C r_abs s")
+   apply (fastforce dest: cond)
+  apply (prop_tac "\<exists>rv t. (rv,t) \<in> fst (B r_abs s) \<and> rrel rv r' \<and> (t,t') \<in> srel")
+   apply (fastforce simp: corres_underlying_def)
+  apply clarsimp
+  apply (rename_tac rv t)
+  apply (clarsimp simp: pred_conj_def)
+  apply (prop_tac "P t \<and> P' t'")
+   apply (metis body_inv pred_andI use_valid)
+  apply (drule_tac x=t in spec)
```
Comment (MitchellBuckley) [inline lib/ExtraCorres.thy:314]: nitpick: there is `spec2` which can make this shorter. And below, I wonder if there is `exI2` or something?

File: lib/Monad_WP/WhileLoopRules.thy [hunk 4]
```diff
@@ -416,6 +416,11 @@ lemma whileLoop_wp:
   \<lbrace> I r \<rbrace> whileLoop C B r \<lbrace> Q \<rbrace>"
   by (rule valid_whileLoop)
 
+lemma whileLoop_wp':
```
Comment (MitchellBuckley) [inline lib/Monad_WP/WhileLoopRules.thy:419]: Wow, very nice!

**Review by MitchellBuckley — APPROVED** [review]
This looks great! I like that so many lemmas are now much more readable!

File: lib/ExtraCorres.thy (hunk 3 above)
Comment (michaelmcinerney) [reply lib/ExtraCorres.thy:314]: `spec2` worked a treat, thanks. 

There is no theorem named `exI2`, and I couldn't find anything among the result of

```
find_theorems "∃x::?'a. ∃y ::?'b. ?P x y"
```

If anyone knows of something, let me know!

File: proof/refine/ARM/Schedule_R.thy [hunk 5]
```diff
@@ -3040,5 +2990,662 @@ lemma ct_released_cross_weak:
...
+    = (if ksReleaseQueue s = []
+          then Some False
+          else readTCBRefillReady (head (ksReleaseQueue s)) s)"
+  by (clarsimp simp: releaseQNonEmptyAndReady_def readReleaseQueue_def asks_def obind_def)
+
+lemma releaseQNonEmptyAndReady_eq:
+  "\<lbrakk>(s, s') \<in> state_relation; pspace_aligned s; pspace_distinct s;
+     valid_objs s; valid_release_q s;
+     active_sc_valid_refills s; valid_objs' s'\<rbrakk>
+   \<Longrightarrow> read_release_q_non_empty_and_ready s = releaseQNonEmptyAndReady s'"
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:3177]: This is like a corres rule for `lookup`, instead of `nondet_monad`. Here the relation between the values is equality but it can be something like `tcb_relation`, I suppose.

File: proof/refine/ARM/Schedule_R.thy [hunk 6]
```diff
@@ -3040,5 +2990,662 @@ lemma ct_released_cross_weak:
...
+
+lemma reprogram_timer_update_release_queue_update_monad_commute:
+  "monad_commute \<top> (modify (reprogram_timer_update (\<lambda>_. b))) (modify (release_queue_update q))"
+  apply (clarsimp simp: monad_commute_def modify_def get_def put_def bind_def return_def)
+  done
+
+(* FIXME RT: move?*)
+lemma bind_return_noop:
+  "do y \<leftarrow> a; b od = do y \<leftarrow> a; z \<leftarrow> b; return () od"
+  by simp
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:3243]: Is this still used? I am not sure if this is useful to keep if it is not used any more.

File: proof/refine/ARM/Schedule_R.thy [hunk 7]
```diff
@@ -3040,5 +2990,662 @@ lemma ct_released_cross_weak:
...
+  done
+
+lemma getCurTime_corres[corres]:
+  "corres (=) \<top> \<top> (gets cur_time) (getCurTime)"
+  apply (clarsimp simp: getCurTime_def state_relation_def)
+  done
+
+lemma hd_wrap_slice:
+  "\<lbrakk>0 < count; mx \<le> length list;  start < mx\<rbrakk> \<Longrightarrow> hd (wrap_slice start count mx list) = list ! start"
+  by (auto simp: wrap_slice_def hd_drop_conv_nth)
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:3007]: Can we move these `wrap_slice` and `refill_map` lemmas to StateRelation.thy, near where they are defined?

File: proof/refine/ARM/Schedule_R.thy [hunk 8]
```diff
@@ -3040,5 +2990,662 @@ lemma ct_released_cross_weak:
...
+   apply (clarsimp simp: refills_map_def)
+   apply (metis add_cancel_right_left length_0_conv length_greater_0_conv length_wrap_slice
+                less_add_eq_less order_less_imp_le)
+  apply (clarsimp simp: sc_relation_def refillHd_def refill_map_def)
+  done
+
+lemma refills_heads_equal_valid_sched_context':
+  "\<lbrakk>sc_relation sc n sc'; sc_refills sc \<noteq> []; valid_sched_context' sc' s'\<rbrakk>
+   \<Longrightarrow> rAmount (refillHd sc') = r_amount (refill_hd sc)
+       \<and> rTime (refillHd sc') = r_time (refill_hd sc)"
```
Comment (mktnk3) [inline proof/refine/ARM/Schedule_R.thy:3039]: Maybe this one, too.

**Review by mktnk3 — APPROVED** [review]
So glad to see this ready to be merged! Various tricky bits coming together finally.

File: proof/invariant-abstract/RealTime_AI.thy [hunk 9]
```diff
@@ -1024,12 +1024,23 @@ lemma get_sc_refill_sufficient_wp[wp]:
    \<lbrace>Q\<rbrace>"
  by (wpsimp simp: get_sc_refill_sufficient_def)
 
+lemma read_sched_context_SomeD:
+  "read_sched_context scp s = Some sc \<Longrightarrow> \<exists>n. kheap s scp = Some (SchedContext sc n)"
+  by (clarsimp simp: read_sched_context_def split: kernel_object.split_asm)
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply proof/invariant-abstract/RealTime_AI.thy:1029]: I've moved both of these

File: proof/refine/ARM/Schedule_R.thy (hunk 6 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:3243]: Ah good catch. This wasn't used any more. I've removed it

File: proof/refine/ARM/Schedule_R.thy (hunk 7 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:3007]: Yep, moved, along with `length_wrap_slice`

File: proof/refine/ARM/Schedule_R.thy (hunk 8 above)
Comment (michaelmcinerney) [reply proof/refine/ARM/Schedule_R.thy:3039]: Done

File: spec/haskell/src/SEL4/Model/StateData.lhs [hunk 10]
```diff
@@ -351,6 +351,17 @@ The function "whileM" allows writing while loops where the loop body and the con
 > whileM :: Monad m => m Bool -> m () -> m ()
 > whileM test body = whenM test $ body >> whileM test body
 
+The function "whileLoop" emulates the definition whileLoop from NonDetMonad.thy in lib.
+
+> funOfM :: State s a -> s -> a
+> funOfM f state = let (rv,state') = runState f state in rv
```
Comment (lsf37) [inline spec/haskell/src/SEL4/Model/StateData.lhs:357]: I don't think `funOfM` is used anywhere any more (which is good). Can you please remove?

File: lib/Monad_WP/NonDetMonad.thy [hunk 11]
```diff
@@ -236,6 +236,12 @@ definition
   gets_map :: "('s \<Rightarrow> 'a \<Rightarrow> 'b option) \<Rightarrow> 'a \<Rightarrow> ('s, 'b) nondet_monad" where
   "gets_map f p \<equiv> gets f >>= (\<lambda>m. assert_opt (m p))"
 
+definition
+  fun_of_m :: "('s, 'a) nondet_monad \<Rightarrow> 's \<Rightarrow> 'a option"
```
Comment (lsf37) [inline lib/Monad_WP/NonDetMonad.thy:240]: It looks like `fun_of_m` is not used any more, apart from in one lemma which is itself not used. Can you please remove? (It's better if there the temptation to use something like it is small)

**Review by lsf37 — APPROVED** [review]
Nice work.
